US07084154B2
A solution of 3-(4-methoxy-phenyl)acrylic acid ethyl ester (1.0 g) and tetramethyl-guanidine (125 μL) was stirred for 24 h at 70° C. in 2.5 mL nitromethane. The solvent was evaporated and the resulting residue was partitioned in 50 mL 1 N hydrochloric acid and 50 mL ethyl ether. The ethyl ether phase was collected and washed with 50 mL 1 N hydrochloric acid. The ether phase was dried over sodium sulfate and the solvent was evaporated to furnish 1.15 g of 3-(4-methoxyphenyl)-4-nitrobutyric acid ethyl ester.

reactant | 3-(4-methoxy-phenyl)acrylic acid ethyl ester | 1.0 g | C(C)OC(C=CC1=CC=C(C=C1)OC)=O | C12H14O3
reactant | tetramethyl-guanidine | 125 μL | CN(C(N(C)C)=N)C | C5H13N3
reactant | nitromethane | 2.5 mL | [N+](=O)([O-])C | CH3NO2
product | 3-(4-methoxyphenyl)-4-nitrobutyric acid ethyl ester | 1.15 g | C(C)OC(CC(C[N+](=O)[O-])C1=CC=C(C=C1)OC)=O | C13H17NO5
